US09193717B2
Step B: N-(3,4-diaminophenyl)methanesulfonamide
N-(4-amino-3-nitrophenyl)methanesulfonamide (1.5 g, 6.5 mmol) was dissolved in MeOH/EtOAc(1:1, 160 mL). To the above solution were slowly added 10% Pd/C (110 mg) and NaBH4 (418 mg, 11.0 mmol). The reaction mixture was stirred for 1 h, after which TLC showed absence of starting material. After addition of NH4Cl (400 mg), the reaction mixture was filtered through CELITE. The filtrate was concentrated and the product was used without further purification.

reactant | N-(4-amino-3-nitrophenyl)methanesulfonamide | 6.5 mmol, 1.5 g | NC1=C(C=C(C=C1)NS(=O)(=O)C)[N+](=O)[O-] | C7H9N3O4S
reactant | NaBH4 | 11.0 mmol, 418 mg | [BH4-].[Na+]
reactant | NH4Cl | 400 mg | [NH4+].[Cl-]
solvent | MeOH EtOAc | 160 mL | CO.CCOC(=O)C
catalyst | Pd/C | 110 mg | [Pd] | Pd
product | N-(3,4-diaminophenyl)methanesulfonamide | NC=1C=C(C=CC1N)NS(=O)(=O)C | C7H11N3O2S
